US05912247
To a solution of 1,4-anhydro-D-threitol [prepared from D-threiol (manufactured by Fluka Co.) in the same manner as in the preparation of 1,4-anhydro-L-threitol (cf. J. Am. Chem. Soc., 74, 5336 (1952)] (11.43 g) and 2,4-dichloroquinazoline (16.8 g) in dimethylformamide (78 ml) is added gradually 60% sodium hydride (in oil) (4.39 g) with stirring under ice-cooling, and the mixture is stirred under ice-cooling for 15 minutes and further at room temperature for 30 minutes. The reaction mixture is diluted with ethyl acetate and washed with water 5 times. The ethyl acetate solution is dried over anhydrous magnesium sulfate and evaporated to dryness under reduced pressure. The resulting residue is briefly purified by medium pressure liquid column chromatography [eluent, chloroform] to give a crystalline substance. The crystalline substance is dividedly added to a solution of piperazine (20.7 g) in dioxane (95 ml) with stirring at 55° C., and the mixture is stirred at the same temperature for 30 minutes. The reaction mixture is diluted with ethyl acetate, washed with water, and dried over anhydrous magnesium sulfate. The resulting solution is evaporated to dryness under reduced pressure, and the residue is purified by medium pressure column chromatography (eluent, chloroform:methanol=10:1, 5:1, v/v) to give 4-[(3R,4R)-(4-hydroxytetrahydrofuran-3-yl)oxy]-2-(1-piperazinyl)quinazoline (5.83 g) as crystals. A part thereof is crystallized from ethanol-ether for obtaining the following physical data.

reactant | 1,4-anhydro-D-threitol | C1[C@@H](O)[C@H](O)CO1 | C4H8O3
reactant | 1,4-anhydro-L-threitol | C1[C@H](O)[C@@H](O)CO1 | C4H8O3
reactant | 2,4-dichloroquinazoline | 16.8 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | sodium hydride | 4.39 g | [H-].[Na+]
reactant | piperazine | 20.7 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 78 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dioxane | 95 ml | O1CCOCC1 | C4H8O2
product | 4-[(3R,4R)-(4-hydroxytetrahydrofuran-3-yl)oxy]-2-(1-piperazinyl)quinazoline | 5.83 g | O[C@H]1[C@@H](COC1)OC1=NC(=NC2=CC=CC=C12)N1CCNCC1 | C16H20N4O3
